US06797718B2
Trimethyl orthoacetate (3.55 mL, 28.27 mmol), tert-butyl 2-{2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]ethoxy}ethylcarbamate (11.21 g, 26.92 mmol), pyridine hydrochloride (1.12 g) and toluene (120 mL) were combined and heated at reflux for 2.5 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in ethyl acetate (300 mL), washed with water (3×100 mL) and brine (1×100 mL), dried over magnesium sulfate and then concentrated under reduced pressure to provide 9.85 g of tert-butyl 2-[2-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethylcarbamate.

reactant | Trimethyl orthoacetate | 28.27 mmol, 3.55 mL | C(C)(OC)(OC)OC | C5H12O3
reactant | tert-butyl 2-{2-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]ethoxy}ethylcarbamate | 26.92 mmol, 11.21 g | NC=1C(=NC(=C(C1NCCOCCNC(OC(C)(C)C)=O)C)C)OC1=CC=CC=C1 | C22H32N4O4
reactant | pyridine hydrochloride | 1.12 g | Cl.N1=CC=CC=C1
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-[2-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)ethoxy]ethylcarbamate | 9.85 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOCCNC(OC(C)(C)C)=O | C24H32N4O4
